US09289419B2
Synthesis of (S)-Tert-butyl (1-(2-hydroxyethyl)pyrrolidin-3-yl)carbamate
2-Bromoethanol (338 mg, 2.703 mmol) was added to a solution of (S)-tert-butyl pyrrolidin-3-ylcarbamate (500 mg, 2.7 mmol) and Et3N (328 mg, 3.24 mmol) in acetonitrile (5 mL) in a seal tube and stirring was continued at 60° C. for 32 h. Reaction mixture was concentrated under reduced pressure to afford the crude, which was diluted with EtOAc, washed it with water followed by brine solution and dried over anhydrous sodium sulphate, concentrated under reduced pressure to afford 430 mg of the title compound.

reactant | 2-Bromoethanol | 2.703 mmol, 338 mg | BrCCO | C2H5BrO
reactant | (S)-tert-butyl pyrrolidin-3-ylcarbamate | 2.7 mmol, 500 mg | N1C[C@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | Et3N | 3.24 mmol, 328 mg | CCN(CC)CC | C6H15N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-Tert-butyl (1-(2-hydroxyethyl)pyrrolidin-3-yl)carbamate | 430 mg | OCCN1C[C@H](CC1)NC(OC(C)(C)C)=O | C11H22N2O3
